US06037367
4(a) 5-(Tetrahydropyran-2-yloxy) pentyne
A mixture of 5-hydroxypentyne (5.0 g, 0.06 mol) and freshly distilled dihydropyran (10 mL) was treated with a trace of p-toluenesulfonic acid hydrate. The exothermic reaction was stirred for 5 min, and the excess dihydropyran was removed under reduced pressure. The residue was purified by flash chromatography (alumna, neutral, activity 1, 25% ether/hexane) and gave the title compound (6.4 g, 63%). 1H NMR (400 MHz, CDCl3) δ 4.60 (t, 1 H), 3.86 (m, 2 H), 3.50 (m, 2 H), 2.32 (m, 2 H), 1.96 (t, 1 H), 1.82 (m, 3 H), 1.72 (m, 1 H), 1.48-1.65 (m, 4 H).

reactant | 5-hydroxypentyne | 0.06 mol, 5.0 g | OCCCC#C | C5H8O
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dihydropyran | 10 mL | O1CCCC=C1 | C5H8O
product | 5-(Tetrahydropyran-2-yloxy) pentyne | 6.4 g, 63% | O1C(CCCC1)OCCCC#C | C10H16O2
